US05811439
The same procedures used in Example 1 were repeated except for using 2.03 g of 2,4-dimethoxybenzyl methanesulfonate and 2.00 g of indole-4-carbaldehyde as a starting material to give 602 mg of 1-(2,4-dimethoxybenzyl)indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 15%.

reactant | 2,4-dimethoxybenzyl methanesulfonate | 2.03 g | CS(=O)(=O)OCC1=C(C=C(C=C1)OC)OC | C10H14O5S
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-(2,4-dimethoxybenzyl)indole-4-carbaldehyde | 602 mg | COC1=C(CN2C=CC=3C(=CC=CC23)C=O)C=CC(=C1)OC | C18H17NO3
